US09062002B2
Synthesis of 1-(5-bromopyridin-2-yl)azetidin-2-one (133a)
A solution of 2,5-dibromopyridine (500 mg, 2.10 mmol), 2-azetidinone (140 mg, 1.97 mmol) and Cs2CO3 (1.27 g, 3.89 mmol) in toluene (15 ml) was added Pd2(dba)3 (36 mg, 0.039 mmol), Xantphos (45 mg, 0.078 mmol) and the reaction mixture was purged with nitrogen for 10 minutes, then was heated at 90° C. for 18 h in seal tube. The progress of the reaction was monitored by TLC. After 18 h of stirring, the mixture was cooled to 20-35° C., filtered on celite and concentrated. The resultant residue was diluted with water (50 ml) and extracted with ethyl acetate (2×50 ml). The combined organic layers were washed with brine (50 ml), followed by drying over anhydrous Na2SO4 and filtering. The filtrate was rotary evaporated to get residue which was purified by column chromatography using a mixture of 50% ethyl acetate/pet ether as an eluent to get the desired compound as a creamy white solid (280 mg, 59%). 1H NMR (400 MHz, DMSO-d6) δ 8.33 (d, J=1.9 Hz, 1H), 7.76 (dd, J=8.8, 2.5 Hz, 1H), 7.67 (d, J=8.8 Hz, 1H), 3.78 (t, J=4.9 Hz, 2H), 3.13 (t, J=4.9 Hz, 2H); MS (ES) m/e 229.0 (M+2H)+.

reactant | 2,5-dibromopyridine | 2.10 mmol, 500 mg | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | 2-azetidinone | 1.97 mmol, 140 mg | N1C(CC1)=O | C3H5NO
reactant | Cs2CO3 | 3.89 mmol, 1.27 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.039 mmol, 36 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | Xantphos | 0.078 mmol, 45 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
product | 1-(5-bromopyridin-2-yl)azetidin-2-one | 280 mg, 59% | BrC=1C=CC(=NC1)N1C(CC1)=O | C8H7BrN2O
